US06166028
N-(5-{[({(1 S)-1-[3,5-bis(trifluoromethyl)phenyl]ethyl}amino)carbothioyl]amino}-2-pyridinyl)-1,3-thiazole-4-carboxamide
A mixture of N-(5-isothiocyanato-2-pyridinyl)-1,3-thiazole-4-carboxamide (0.36 g) and (S)-alpha-methyl-3,5-bis(trifluoromethyl)-benzenemethanamine (0.36 g) is heated with acetonitrile (10 mL) until all solids are dissolved. The solution is allowed to stand for 12 hours. A white solid forms and is collected by filtration (0.40 g). [M+H] 520.

reactant | N-(5-isothiocyanato-2-pyridinyl)-1,3-thiazole-4-carboxamide | 0.36 g | N(=C=S)C=1C=CC(=NC1)NC(=O)C=1N=CSC1 | C10H6N4OS2
reactant | (S)-alpha-methyl-3,5-bis(trifluoromethyl)-benzenemethanamine | 0.36 g | C[C@H](N)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H9F6N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(5-{[({(1 S)-1-[3,5-bis(trifluoromethyl)phenyl]ethyl}amino)carbothioyl]amino}-2-pyridinyl)-1,3-thiazole-4-carboxamide | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@H](C)NC(=S)NC=1C=CC(=NC1)NC(=O)C=1N=CSC1)(F)F | C20H15F6N5OS2
